US09388195B2
C) Production of (1S,5R)-2-(tert-butoxycarbonyl)-2-azabicyclo[3.1.0]hexane-1-carboxylic acid
A solution of ethyl(1S,5R)-2-azabicyclo[3.1.0]hexane-1-carboxylate hydrochloride (1.50 g), di-tert-butyl dicarbonate (1.91 mL) and triethylamine (2.18 mL) in tetrahydrofuran (15 mL) was stirred at room temperature for 15 hr. Water (10 ml) was added to the reaction mixture, and the mixture was extracted with ethyl acetate (20 mL). The organic layer was dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was dissolved in ethanol (7 mL), 8M aqueous sodium hydroxide solution (1 mL) was added, and the mixture was stirred at room temperature for 2 hr. The reaction mixture was acidified with 6M hydrochloric acid (1.5 mL) under ice-cooling, and the precipitated solid was collected by filtration to give the title compound (1.20 g) as a colorless solid.

reactant | ethyl(1S,5R)-2-azabicyclo[3.1.0]hexane-1-carboxylate hydrochloride | 1.50 g | Cl.[C@@]12(NCC[C@@H]2C1)C(=O)OCC
reactant | di-tert-butyl dicarbonate | 1.91 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 2.18 mL | C(C)N(CC)CC | C6H15N
reactant | Water | 10 ml | O | H2O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | (1S,5R)-2-(tert-butoxycarbonyl)-2-azabicyclo[3.1.0]hexane-1-carboxylic acid | 1.20 g | C(C)(C)(C)OC(=O)N1[C@]2(C[C@H]2CC1)C(=O)O | C11H17NO4
